* check whether we can swallow special modelnames starting with a digit

* (exec-spice "ngspice -b %s")

* check whether we can swallow special modelnames starting with a digit
*   for example 1n4002 2SK456 or 1SMB4148
* see function is_a_modelname() in inpcom.c

i1  1 0   dc -100u

vm1 1 t1  dc 0
d1  t1 0  dplain

vm2 1 t2  dc 0
d2  t2 0  1n4002

vm3 1 t3  dc 0
d3  t3 0  2sk456

vm4 1 t4  dc 0
d4  t4 0  1smb4148


.model dplain   d(is=1.0f)

.model 1n4002   d(is=1.3f)
.model 2sk456   d(is=1.5f)
.model 1smb4148 d(is=1.7f)

.control

op

compose result values i(vm2)/i(vm1) i(vm3)/i(vm1) i(vm4)/i(vm1)
compose gold   values 1.3 1.5 1.7

let err = result / gold - 1
let allowed_err = 1e-7

echo "Note: err =" $&err
echo "Note: allowed_err =" $&allowed_err

if vecmax(abs(err)) > allowed_err
  echo "ERROR: test failed"
  quit 1
else
  echo "INFO: success"
  quit 0
end

.endc

.end
