* Monte Carlo buck (xyce)
VIN vin 0 DC 24
L1 vx vout 9.10012e-05
C1 vout 0 8.89284e-05 IC=0
R1 vout 0 5
V_PWM pwm 0 PULSE(0 10 0 10n 10n 5u 10u)
S1 vin vx pwm 0 SW_IDEAL
D1 0 vx D_IDEAL

Rs vin vx 1k
Cs vin vx 1n
Rd 0 vx 1k
Cd 0 vx 1n
.options TIMEINT METHOD=Gear MAXORD=2 ABSTOL=1e-6 RELTOL=0.001
.options NONLIN-TRAN MAXSTEP=200 MAXSEARCHSTEP=5
.model SW_IDEAL VSWITCH(RON=10m ROFF=1Meg VON=5.5 VOFF=4.5)
.model D_IDEAL D(IS=1e-14 N=1 RS=10m)
.tran 20n 2m 0 20n UIC
.print TRAN FORMAT=PROBE V(vin) V(vout) V(pwm) I(L1)
.end
